US07141561B2
N-{4-[2-Oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}-2-piperidin-1-ylacetamide
1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one was reacted with piperidin-1-ylacetic acid as described in example 217. The product with the molecular weight of 468.56 (C28H28N4O3); MS (ESI): 469 ([M+H]+) was obtained as hydrotrifluoroacetate in this way.

reactant | 1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H17N3O2
reactant | piperidin-1-ylacetic acid | N1(CCCCC1)CC(=O)O | C7H13NO2
product | N-{4-[2-Oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}-2-piperidin-1-ylacetamide | O=C1N(C=CN1C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)NC(CN1CCCCC1)=O | C28H28N4O3
